* V1 discrete RGB LED current-limit estimate
* Sweep a representative LED forward-voltage model; verify selected LED curves.
VDD vdd 0 3.3
RLED vdd led 150
DLED led 0 D_COLOR
.model D_COLOR D(Is=1e-20 N=2.0 Rs=8 Bv=5 Ibv=10u)
.op
.dc VDD 2.8 3.4 0.1
.measure dc IMAX MAX i(VDD)
.control
run
print v(led) i(VDD)
.endc
.end
